US04663344
A solution of methyl 2-benzylthio-6-methoxybenzoate (0.50 g, 1.7 mmol) in N,N-dimethylformamide (2 ml) was added dropwise with stirring under a nitrogen atmosphere to a suspension of sodium hydride (50% dispersion in mineral oil) (90 mg, 1.9 mmol) in N,N-dimethylformamide (5 ml) at room temperature. The mixture was stirred at 80° C. for 2 hours and then at 100° C. for 10 hours. The cooled mixture was then poured into ice containing 2N hydrochloric acid and extracted with diethyl ether. The combined organic layers were washed with water (3×), saturated aqueous sodium chloride solution, dried (sodium sulfate), and evaporated. The residue was vacuum filtered through a pad of silica gel (Merck No. 7734), eluting with 2:1 hexane-ether. Fractions containing pure product were evaporated, and the resulting syrup triturated with methanol to afford 3-hydroxy-4-methoxy-2-phenylbenzo[b]thiophene as a white solid; yield 0.12 g (27%); m/z 256 (M30. ).

reactant | methyl 2-benzylthio-6-methoxybenzoate | 1.7 mmol, 0.50 g | C(C1=CC=CC=C1)SC1=C(C(=O)OC)C(=CC=C1)OC | C16H16O3S
reactant | sodium hydride | 1.9 mmol, 90 mg | [H-].[Na+]
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 3-hydroxy-4-methoxy-2-phenylbenzo[b]thiophene | OC=1C2=C(SC1C1=CC=CC=C1)C=CC=C2OC | C15H12O2S
